US08685969B2
4. Ethyl 5-bromo-8-carbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-3-carboxylate
To a solution of ethyl 2-amino-3-(4-bromo-7-carbamoyl-1H-indol-3-yl)propanoate (3.45 g, 9.74 mmol) in methanol (68.8 mL) and 1 M aqueous HCl (52.9 mL) was added 37% aqueous formaldehyde (0.790 mL, 9.74 mmol) and the resulting mixture was heated at 80° C. After 1.5 h, additional formaldehyde (0.79 mL) was added and heating was continued. After 3.5 h, additional formaldehyde (0.79 mL) was again added and heating was continued. After 6 h, the mixture was cooled to room temperature, concentrated, and partitioned between a solvent mixture of CHCl3 and iPrOH (3:1) and 1 M NaOH and NaHCO3 (aq). The organic phase was washed with brine, dried and concentrated to afford the crude product as a light brown solid (3.16 g, 89% yield). LCMS (M+H)+ m/z 365.8, 367.8.

reactant | ethyl 2-amino-3-(4-bromo-7-carbamoyl-1H-indol-3-yl)propanoate | 9.74 mmol, 3.45 g | NC(C(=O)OCC)CC1=CNC2=C(C=CC(=C12)Br)C(N)=O | C14H16BrN3O3
reactant | formaldehyde | 9.74 mmol, 0.790 mL | C=O | CH2O
reactant | formaldehyde | 0.79 mL | C=O | CH2O
reactant | formaldehyde | 0.79 mL | C=O | CH2O
solvent | methanol | 68.8 mL | CO | CH4O
solvent | HCl | 1 M, 52.9 mL | Cl | ClH
product | Ethyl 5-bromo-8-carbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-3-carboxylate | 3.16 g, 89% yield | BrC1=C2C3=C(NC2=C(C=C1)C(N)=O)CNC(C3)C(=O)OCC | C15H16BrN3O3
